US05712110
Treatment with N-methyl-N'-nitro-N-nitroguanidine
About 25 mg of N-methyl-N'-nitro-N-nitrosoguanidine (Aldrich Chemie BDR) were added to a 10 ml tared graduated cylinder supplied with a glass stopper. Water was supplied so as to obtain a total volume of 10 ml, and the N-methyl-N'-nitro-N-nitrosoguanidine was dissolved therein by shaking. 10×1 ml of stock solution were obtained from this solution.

reactant | N-methyl-N'-nitro-N-nitrosoguanidine | 25 mg | CN(C(=N)N[N+](=O)[O-])N=O | C2H5N5O3
reactant | Water | O | H2O
product | N-methyl-N'-nitro-N-nitroguanidine | CN(C(=N)N[N+](=O)[O-])[N+](=O)[O-] | C2H5N5O4
